US04070366
Preparation of Tetramethylpyrrole
2,4-Dimethyl-5-carbethoxy-pyrrole (1.64 g), acetic acid (25 ml), aqueous hydriodic acid (25 ml) and paraformaldehyde (0.589g), were heated at 95°-100° C. for three hours under nitrogen with stirring. The work up was the same as that of 2,3,4-trimethyl-5-carbethoxy-pyrrole in Example 4 except the 2 × 75 ml of ether was used and care was taken to avoid exposure of the product to air. It was purified by distillation (10 mm, 60° C.) to give 0.628 g (52%), m.p. 106°-108° C. (lit4 m.p. 111°-112° C.).

reactant | 2,4-Dimethyl-5-carbethoxy-pyrrole | 1.64 g | CC=1NC(=C(C1)C)C(=O)OCC | C9H13NO2
reactant | hydriodic acid | 25 ml | I | HI
reactant | paraformaldehyde | 0.589g | C=O | CH2O
reactant | 2,3,4-trimethyl-5-carbethoxy-pyrrole | CC=1NC(=C(C1C)C)C(=O)OCC | C10H15NO2
solvent | ether | 75 ml | CCOCC | C4H10O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | Tetramethylpyrrole | CC1=C(C(=C(N1)C)C)C | C8H13N
